US06555694B1
Production of 1-(4-bromophenyl)-3-carboxy-2-pyrrolidinone
30 g of 1,1-cyclopropanedicarboxylic acid and 50 g of 4-bromoaniline were added to 50 ml of acetonitrile, followed by refluxing for 7 hours with heating and stirring.

reactant | 1,1-cyclopropanedicarboxylic acid | 30 g | C1(CC1)(C(=O)O)C(=O)O | C5H6O4
reactant | 4-bromoaniline | 50 g | BrC1=CC=C(N)C=C1 | C6H6BrN
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-(4-bromophenyl)-3-carboxy-2-pyrrolidinone | BrC1=CC=C(C=C1)N1C(C(CC1)C(=O)O)=O | C11H10BrNO3
